US06245804B1
6-[4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-oxo-valeroylamino)-4-ethyl-2,3-benzoxazin-1-one
was obtained analogously to the process that is described for 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide from 4-ethyl-2,3-benzoxazin-1-one and 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-valeric acid, melting point 157-158° C.

reactant | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
reactant | 4-ethyl-2,3-benzoxazin-1-one | C(C)C1=NOC(C2=C1C=CC=C2)=O | C10H9NO2
reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-valeric acid | FC=1C=CC(=C(C1)C(CC(C(=O)O)=O)(C)C)OC | C13H15FO4
product | 6-[4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-oxo-valeroylamino)-4-ethyl-2,3-benzoxazin-1-one | FC=1C=CC(=C(C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)CC)C1)=O)(C)C)OC | C23H23FN2O5
